US07091220B2
The reaction of 16.4 ml (0.200 mol) pyrrolidine and 10.1 ml (0.100 mol) benzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 6.0 ml (0.100 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 14.1 g (corresponding to 72% of the yield calculated by theory) 1-benzylidene-pyrrolidinium chloride.

reactant | pyrrolidine | 0.200 mol, 16.4 ml | N1CCCC1 | C4H9N
reactant | benzaldehyde | 0.100 mol, 10.1 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetyl chloride | 0.100 mol, 6.0 ml | C(C)(=O)Cl | C2H3ClO
product | 1-benzylidene-pyrrolidinium chloride | [Cl-].C(C1=CC=CC=C1)=[N+]1CCCC1 | InChI=1S/C11H14N.ClH/c1-2-6-11(7-3-1)10-12-8-4-5-9-12;/h1-3,6-7,10H,4-5,8-9H2;1H/q+1;/p-1
